US04450155
A solution of 1-(tert-butyloxycarbonyl)-N-(2-phenylethyl)-L-prolinamide (2.46 g.) in ethyl acetate-hydrogen chloride (3.9 N, 30 ml.) was stirred for 20 minutes at room temperature, then diluted with ether (to about 200 ml.). The solvents were decanted from the resulting gum, which was triturated with ether, affording crystalline N-(2-phenylethyl)-L-prolinamide hydrochloride (1.91 g., m.r. 147°-150° ).

reactant | 1-(tert-butyloxycarbonyl)-N-(2-phenylethyl)-L-prolinamide | 2.46 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCCC2=CC=CC=C2)CCC1 | C18H26N2O3
reactant | ethyl acetate hydrogen chloride | 3.9 N, 30 ml | C(C)(=O)OCC.Cl
solvent | ether | about 200 ml | CCOCC | C4H10O
product | N-(2-phenylethyl)-L-prolinamide hydrochloride | 1.91 g | Cl.C1(=CC=CC=C1)CCNC([C@H]1NCCC1)=O | InChI=1S/C13H18N2O.ClH/c16-13(12-7-4-9-14-12)15-10-8-11-5-2-1-3-6-11;/h1-3,5-6,12,14H,4,7-10H2,(H,15,16);1H/t12-;/m0./s1
